US07037927B2
Methyl 4-{[(4-tert-butylphenyl)amino]carbonyl}benzoate
mono-Methyl terephthalate (1.02 g, 5.67 mmol) was refluxed in SOCl2 (10 mL) for 1 hour, allowed to cool to room temperature, and concentrated under reduced pressure. The residue was taken up in tetrahydrofuran (30 mL) and treated with 4tert-butylaniline (0.9 mL, 5.65 mmol) and DIEA (5 mL, 28.8 mmol) at room temperature. After stirring overnight, the mixture was concentrated under reduced pressure and the residue was taken up in ethyl acetate. The ethyl acetate was washed with H2O and brine, dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure. The residue was triturated with 3:2 hexanes:ethyl acetate and the solid air-dried to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 10.37 (s, 1H), 8.08 (m, 4H), 7.69 (m, 2H), 7.39 (m, 2H), 3.90 (s, 3H), 1.29 (s, 9H); MS (ESI—) m/z 312 (M+H)+.

reactant | mono-Methyl terephthalate | 5.67 mmol, 1.02 g | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
reactant | 4tert-butylaniline | 5.65 mmol, 0.9 mL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | DIEA | 28.8 mmol, 5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
product | Methyl 4-{[(4-tert-butylphenyl)amino]carbonyl}benzoate | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C19H21NO3
